US06407111B1
c) [5-(4,4-Dimethyl-4,5-dihydro-oxazol-2-yl)-2-(4-methyl-piperazin-1-yl)-pyridin-4-yl]-phenyl-methanone
2,2,6,6-Tetramethylpiperidine (0.932 g, 6.6 mmol) was placed in a three-necked flask. Under argon 10 ml of hexane were added, the solution was cooled to 0° C. and n-butyl lithium (1.6 M solution in hexane) was added slowly. After stirring the yellow suspension for 10 min at 0° C., N,N,N′,N′-tetramethylethylenediamine (767 mg, 6.6 mmol) was added. This mixture was added dropwise to a suspension of 1.65 g (6 mmol) of 1-[5-(4,4-dimethyl-4,5-dihydro-oxazol-2-yl)-pyridin-2-yl]-4-methyl-piperazine in 20 ml of hexane at −78°. After stirring the yellow solution for 30 min at this temperature and for 45 min at 0° C., a solution of 1.19 g N-methoxy-N-methyl benzamide (7.2 mmol) in 2 ml hexane/2 ml tetrahydrofuran was added slowly at 0° C. After 30 min, the cooling bath was removed and stirring was continued at room temperature overnight. Water was added and the mixture was extracted with ethyl acetate. The organic layer was dried (magnesium sulfate) and evaporated to give a brown oil, which was purified by flash chromatography with dichloromethane/methanol to yield 1.16 g (51%) of the product as a yellow solid.

reactant | 2,2,6,6-Tetramethylpiperidine | 6.6 mmol, 0.932 g | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | n-butyl lithium | 1.6 M | C(CCC)[Li]
reactant | N,N,N′,N′-tetramethylethylenediamine | 6.6 mmol, 767 mg | CN(CCN(C)C)C | C6H16N2
reactant | 1-[5-(4,4-dimethyl-4,5-dihydro-oxazol-2-yl)-pyridin-2-yl]-4-methyl-piperazine | 6 mmol, 1.65 g | CC1(N=C(OC1)C=1C=CC(=NC1)N1CCN(CC1)C)C | C15H22N4O
reactant | N-methoxy-N-methyl benzamide | 7.2 mmol, 1.19 g | CON(C(C1=CC=CC=C1)=O)C | C9H11NO2
solvent | hexane | 20 ml | CCCCCC | C6H14
solvent | hexane | 2 ml | CCCCCC | C6H14
product | [5-(4,4-Dimethyl-4,5-dihydro-oxazol-2-yl)-2-(4-methyl-piperazin-1-yl)-pyridin-4-yl]-phenyl-methanone | 1.16 g, 51% | CC1(N=C(OC1)C=1C(=CC(=NC1)N1CCN(CC1)C)C(=O)C1=CC=CC=C1)C | C22H26N4O2
